US04351961
(b) 2,4,4,5-Tetrachloro-5,5-difluoropentane-1-carboxylic acid
303.9 g of 2,4,4,5-tetrachloro-5,5-difluoropentane-1-carboxylic acid ethyl ester and 900 ml of a 22% aqueous hydrochloric acid are heated at 95°-100° C. for 20 hours. After cooling, the oily suspension obtained is purified, in the customary manner, by means of an ether extraction, bicarbonate extraction and ether extraction of the acidified bicarbonate solution. The yield is 206.9 g (75% of theory of 2,4,4,5-tetrachloro-5,5-difluoropentane-1-carboxylic acid in the form of a clear liquid, which boils at 107°-108° C./25 Pa.

reactant | 2,4,4,5-tetrachloro-5,5-difluoropentane-1-carboxylic acid ethyl ester | 303.9 g | C(C)OC(=O)CC(CC(C(F)(F)Cl)(Cl)Cl)Cl | C8H10Cl4F2O2
reactant | hydrochloric acid | Cl | ClH
product | 2,4,4,5-Tetrachloro-5,5-difluoropentane-1-carboxylic acid | ClC(CC(=O)O)CC(C(F)(F)Cl)(Cl)Cl | C6H6Cl4F2O2
